US04791117
3-(4-Dibutylaminopropoxybenzoyl)-8-methylimidazo[1,2-a]pyridine
A mixture of 3-(4-hydroxybenzoyl)-8-methylimidazo[1,2-a]pyridine (2.3 g, 9.6 mmol), dibutylaminopropyl chloride (6.8 g, 33 mmol) and potassium hydroxide (1.3 g, 23 mmol) in methanol (60 ml) was stirred at reflux for 96 hours. The mixture was concentrated and the resulting oil was flash chromatographed (silica gel, 2.5% methanol in diethyl ether) to give 1.3 g (31% yield) of the free base of the title compound. The HCl salt was prepared by dropwise addition of concentrated hydrochloric acid to a solution of the free base in methanol, concentrated and recrystallized from acetone-ether to give the HCl salt of the title compound as an off-white solid, mp 105° C. to 107° C. IR(KBr): 3440, 2640, 1645, 1605 cm-1. MS: 421 (M+). 1H NMR (CD3OD): δ9.66 (d, J=8 Hz, 1H), 8.74 (s, 1H), 8.00-7.61 (m, 4H), 7.20 (d, J=7.2 Hz, 2H), 4.29 (t, J=5 Hz, 2H), 3.41-3.15 (m, 6H), 2.75 (s, 3H), 2.31 (m, 2H), 1.80-1.42 (m, 8H), 1.02 (m, 6H).

reactant | 3-(4-hydroxybenzoyl)-8-methylimidazo[1,2-a]pyridine | 9.6 mmol, 2.3 g | OC1=CC=C(C(=O)C2=CN=C3N2C=CC=C3C)C=C1 | C15H12N2O2
reactant | dibutylaminopropyl chloride | 33 mmol, 6.8 g | C(CCC)N(CCCC)CCCCl | C11H24ClN
reactant | potassium hydroxide | 23 mmol, 1.3 g | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | 3-(4-Dibutylaminopropoxybenzoyl)-8-methylimidazo[1,2-a]pyridine | C(CCC)N(CCCC)CCCOC1=CC=C(C(=O)C2=CN=C3N2C=CC=C3C)C=C1 | C26H35N3O2
